US05891898
(2b) (4R)-N-[(1S)-1-Methyl-2-nitroxyethyl]-2-oxothiazolidin-4-yl-carboxamide
In 10 ml of dry acetonitrile were dissolved 478 mg of nitronium tetrafluoroboron (85% content), 0.43 ml of 2,4,6-collidine was added thereto with stirring under ice-cooling, and the mixture was stirred under ice-cooling for 30 minutes. To the resulting mixture were added 500 mg of (4R)-N-[(1S)-1-methyl-2-hydroxyethyl]-2-oxothiazolidin-4-yl-carboxamide, and the mixture was stirred at room temperature for 1 hour and 45 minutes. Then, the solvent was distilled off under reduced pressure and the thus obtained residue was purified by silica gel column chromatography employing cyclohexane-ethyl acetate (3:7) as an eluent to obtain 178 mg of the desired compound as colorless crystals.

reactant | nitronium tetrafluoroboron | 478 mg | [B-](F)(F)(F)F.[N+](=O)=O
reactant | 2,4,6-collidine | 0.43 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | (4R)-N-[(1S)-1-methyl-2-hydroxyethyl]-2-oxothiazolidin-4-yl-carboxamide | 500 mg | C[C@@H](CO)NC(=O)[C@H]1NC(SC1)=O | C7H12N2O3S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (4R)-N-[(1S)-1-Methyl-2-nitroxyethyl]-2-oxothiazolidin-4-yl-carboxamide | 178 mg | C[C@@H](CO[N+](=O)[O-])NC(=O)[C@H]1NC(SC1)=O | C7H11N3O5S
